US09255096B1
3-benzoyl-8,9-dimethoxy-1,2,3,4-tetrahydrobenzo[c]-2,7-naphthyridine
A 2 L, three-necked, round-bottomed flask was equipped with a heating/cooling bath, magnetic stirrer and stir bar, 60 mL addition funnel, thermocouple, thermocouple adapter with a nitrogen inlet. The flask was charged with triethylamine (43 mL, 31.2 g, 308 mmol), 3-benzoyl-8,9-dimethoxy-2,3,4,6-tetrahydrobenzo[c]-2,7-naphthyridin-5(1H)-one (30.2 g, 83 mmol), and dichloromethane (850 mL). The resulting slurry was stirred for 15 minutes at 22° C. and cooled to −18° C. Neat trifluoromethanesulfonic anhydride (34 mL, 202 mmol) was added drop-wise via an addition funnel over 40 minutes, keeping the temperature at −12 to −18° C. Upon completion of the addition, the mixture was warmed to 0° C. over 40 minutes and stirred at 0° C. for 2 hours. Solvents were stripped under reduced pressure. A solution of dichloro[1,1′-bis(diphenylphos-phino)ferrocene]palladium(II) dichloromethane adduct (4.72 g, 5.78 mmol) in a solution of degassed N,N-dimethylformamide (520 mL) and Et3N (120 mL, 87.1 g, 861 mmol) was added to the residue and the batch was degassed by bubbling N2 through it for 10 minutes. Degassed formic acid (15.8 mL, 419 mmol) was added over 1 minute via syringe and the stirred solution was heated to 55° C. Additional dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium(II) dichloromethane adduct (3.20 g, 3.92 mmol) was added after 20 minutes and the batch was heated at 55° C. for another 1 hour. At that time, assay by HPLC showed the reaction to be complete. Concentration in vacuo afforded 149 g of crude dark brown oil, which was dissolved in dichloromethane (180 mL) and loaded into a Biotage® unit (340 g KP-Sil cartridge equilibrated with dichloromethane). The column was eluted isocratically with dichloromethane (8 CV). The product containing fractions were combined and concentrated under reduced pressure; the resulting oil (105 g) was swished with ethyl acetate (520 mL) to give the title compound as a grey solid (13.0 g, 45% yield).

reactant | triethylamine | 308 mmol, 43 mL, 31.2 g | C(C)N(CC)CC | C6H15N
reactant | 3-benzoyl-8,9-dimethoxy-2,3,4,6-tetrahydrobenzo[c]-2,7-naphthyridin-5(1H)-one | 83 mmol, 30.2 g | C(C1=CC=CC=C1)(=O)N1CCC=2C3=C(NC(C2C1)=O)C=C(C(=C3)OC)OC | C21H20N2O4
reactant | trifluoromethanesulfonic anhydride | 202 mmol, 34 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Et3N | 861 mmol, 120 mL, 87.1 g | CCN(CC)CC | C6H15N
reactant | formic acid | 419 mmol, 15.8 mL | C(=O)O | CH2O2
solvent | dichloromethane | 180 mL | ClCCl | CH2Cl2
catalyst | dichloro[1,1′-bis(diphenylphos-phino)ferrocene]palladium(II) dichloromethane adduct | 5.78 mmol, 4.72 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium(II) dichloromethane adduct | 3.92 mmol, 3.20 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | dichloromethane | 850 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 520 mL | CN(C=O)C | C3H7NO
product | 3-benzoyl-8,9-dimethoxy-1,2,3,4-tetrahydrobenzo[c]-2,7-naphthyridine | 13.0 g, 45% yield | C(C1=CC=CC=C1)(=O)N1CCC=2C3=C(N=CC2C1)C=C(C(=C3)OC)OC | C21H20N2O3
